* Z:\mnt\design.r\spice\examples\2642-16.asc
XU2 N007 N005 OUT +V -V LT1678
V2 +V 0 5
V3 -V 0 -5
V4 N002 0 5
V5 N003 0 2.5
C1 OUT N005 5p
V1 N001 0 PWL(0 3.3 1.2u 3.3 +2n 0 1.51u 0 +2n 3.3)
V6 N004 0 PULSE(0 3.3 0 0.1n 0.1n 9.9n 20n)
V7 N006 0 PULSE(0 3.3 1.296u 0.1n 0.1n 19.8n 40n)
V8 N008 0 PWL(0 3.3 2.6u 3.3 +2n 0 +30n 0 +2n 3.3)
XU3 N003 N001 N004 N006 N008 N007 N005 OUT N002 0 LTC2642-16
.tran 3.5u
.lib LTC2.LIB
.lib LTC2642-16.sub
.backanno
.end
